US07018988B2
(3EZ,5s)-1-([1,1′-biphenyl]-4-ylsulfonyl)-5-[(4hydroxy-4-phenyl-1-piperidinyl)carbonyl]-3-pyrrolidinone O-methyloxime
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, [1,1′-biphenyl]-4-sulfonyl chloride, and 4-phenyl-4-piperidinol, the title compound was obtained in 84% purity by HPLC. MS(ESI+): m/z=534.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | [1,1′-biphenyl]-4-sulfonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C1=CC=CC=C1 | C12H9ClO2S
reactant | 4-phenyl-4-piperidinol | C1(=CC=CC=C1)C1(CCNCC1)O | C11H15NO
product | (3EZ,5s)-1-([1,1′-biphenyl]-4-ylsulfonyl)-5-[(4hydroxy-4-phenyl-1-piperidinyl)carbonyl]-3-pyrrolidinone O-methyloxime | CON=C1CN([C@@H](C1)C(=O)N1CCC(CC1)(C1=CC=CC=C1)O)S(=O)(=O)C1=CC=C(C=C1)C1=CC=CC=C1 | C29H31N3O5S
